US06376490B1
6,7-Dichloro-2,3-dimethoxy-5-[1-(3-hydroxypropyl)-1H-tetrazol-5-yl]quinoxaline
9-Borabicyclo[3.3.1]nonane (0.5M in tetrahydrofuran, 9.1 mL, 4.55 mmol) was added dropwise to a stirred suspension of 6,7-dichloro-2,3-dimethoxy-5-(1-allyl-1H-tetrazol-5-yl)quinoxaline (Preparation 19, 0.67 g, 1.82 mmol) in dry tetrahydrofuran (15 mL) at room temperature under nitrogen. The reaction mixture was heated under reflux for 18 hours, trimethylamine-N-oxide (1.03 g, 13.7 mmol) was added portionwise to the cooled reaction mixture and the mixture was heated under reflux for 2 hours then concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel, by gradient elution using dichloromethane:methanol (100:0 changing to 99.5:0.5, by volume) to give the title compound (0.510 g, 73%) as a white solid, mp 188-189° C.

reactant | 9-Borabicyclo[3.3.1]nonane | 4.55 mmol, 0.5M, 9.1 mL | C12CCCC(CCC1)B2 | C8H15B
reactant | 6,7-dichloro-2,3-dimethoxy-5-(1-allyl-1H-tetrazol-5-yl)quinoxaline | 1.82 mmol, 0.67 g | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)C1=NN=NN1CC=C | C14H12Cl2N6O2
reactant | trimethylamine-N-oxide | 13.7 mmol, 1.03 g | C[N+](C)(C)[O-] | C3H9NO
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 6,7-Dichloro-2,3-dimethoxy-5-[1-(3-hydroxypropyl)-1H-tetrazol-5-yl]quinoxaline | 0.510 g, 73% | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)C1=NN=NN1CCCO | C14H14Cl2N6O3
